US07345178B2
4-(2-Nitro-phenyl)-thiazol-2-ylamine was prepared as follows: 2-Bromo-2′-nitroacetophenone (1.75 g, 7.2 mmol) was mixed with 50 mL of absolute EtOH along with thiourea (1.09 g, 14.4 mmol) and stirred under reflux for 2 hours. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The resulting residue was basified with 20 mL of 1 N aqueous NaOH and extracted with CH2Cl2. The combined organic layers were dried (Na2SO4) and concentrated to afford essentially quantitative yield of 4-(2-nitro-phenyl)-thiazol-2-ylamine.

reactant | 2-Bromo-2′-nitroacetophenone | 7.2 mmol, 1.75 g | BrCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | thiourea | 14.4 mmol, 1.09 g | NC(=S)N | CH4N2S
solvent | EtOH | 50 mL | CCO | C2H6O
product | 4-(2-nitro-phenyl)-thiazol-2-ylamine | quantitative yield | [N+](=O)([O-])C1=C(C=CC=C1)C=1N=C(SC1)N | C9H7N3O2S
